US08349880B2
Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide (500 mg, 1.69 mmol, from preparation A) and 6-chloro-2-(4-chloro-1H-pyrazol-1-yl)hexanoic acid (423 mg, 1.685 mmol, from preparation AK) were coupled and then reacted with hydrazine (0.212 mL, 6.74 mmol) using a procedure analogous to Step A of Example 13 to afford 5-(5-chloro-1-(4-chloro-1H-pyrazol-1-yl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (956 mg, 1.93 mmol, 100% yield). LC-MS (M+H)+ 497.2. The crude products were used in the subsequent step without purification.

reactant | Methyl 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate, hydroiodide | I.ClC=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC
reactant | 6-chloro-2-(4-chloro-1H-pyrazol-1-yl)hexanoic acid | 1.685 mmol, 423 mg | ClCCCCC(C(=O)O)N1N=CC(=C1)Cl | C9H12Cl2N2O2
reactant | hydrazine | 6.74 mmol, 0.212 mL | NN | H4N2
product | 5-(5-chloro-1-(4-chloro-1H-pyrazol-1-yl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 1.93 mmol, 956 mg, 100% yield | ClCCCCC(N1N=CC(=C1)Cl)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)Cl)OC | C20H21Cl3N8O
